US07884210B2
{2-[3-(2-Cyclohex-1-enyl-ethyl)-3-cyclohexyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid
Prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid, from 2-(1-cyclohexenyl)-ethylamine, cyclohexanone and 2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | 2-(1-cyclohexenyl)-ethylamine | C1(=CCCCC1)CCN | C8H15N
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | {2-[3-(2-Cyclohex-1-enyl-ethyl)-3-cyclohexyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(=CCCCC1)CCN(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCCCC1 | C20H29N3O3S2
